US05231223
Example 13 was repeated, but instead of aniline-2-sulphonic acid the same amount of aniline-4-sulphonic acid and instead of methanol the same volume of iso-propanol were used. 15.0 g (73%) of styrene-4-sulphonic acid, Na salt, were obtained.

reactant | aniline-2-sulphonic acid | NC=1C(=CC=CC1)S(=O)(=O)O | C6H7NO3S
reactant | aniline-4-sulphonic acid | NC1=CC=C(C=C1)S(=O)(=O)O | C6H7NO3S
reactant | methanol | CO | CH4O
solvent | iso-propanol | C(C)(C)O | C3H8O
product | styrene-4-sulphonic acid | 15.0 g, 73% | C=CC1=CC=C(C=C1)S(=O)(=O)O | C8H8O3S
